US08222247B2
A mixture of methyl 3-(5-bromothiophen-2-yl)-3-(3-fluorophenyl)-2,2-dimethyl-propanoate, product of Preparation 1, Step 2, (367 mg, 0.988 mmol), morpholine (0.572 mL), palladium acetate (44 mg, 0.20 mmol), 2-(di-tert-butylphosphino)-biphenyl (118 mg, 0.40 mmol), and sodium tert-butoxide (228 mg, 2.37 mmol) in toluene (5 ml) was heated at 80° C. for 2 h. The reaction mixture was cooled to room temperature, the solid was removed by filtration, and the filtrate was concentrated in vacuo. The crude product was purified by silica gel flash chromatography using 20% ethyl acetate in hexanes to give methyl 3-(3-fluorophenyl)-2,2-dimethyl-3-(5-morpholinothiophen-2-yl)propanoate as an oil (120 mg, 32.2%). LC/MS (m/z) 378.33 [(M+H)+]; HPLC Rt: 3.548 min.

reactant | methyl 3-(5-bromothiophen-2-yl)-3-(3-fluorophenyl)-2,2-dimethyl-propanoate | BrC1=CC=C(S1)C(C(C(=O)OC)(C)C)C1=CC(=CC=C1)F | C16H16BrFO2S
reactant | morpholine | 0.988 mmol, 0.572 mL, 367 mg | N1CCOCC1 | C4H9NO
reactant | 2-(di-tert-butylphosphino)-biphenyl | 0.40 mmol, 118 mg | C(C)(C)(C)P(C1=C(C=CC=C1)C1=CC=CC=C1)C(C)(C)C | C20H27P
reactant | sodium tert-butoxide | 2.37 mmol, 228 mg | CC(C)([O-])C.[Na+]
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
catalyst | palladium acetate | 0.20 mmol, 44 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | methyl 3-(3-fluorophenyl)-2,2-dimethyl-3-(5-morpholinothiophen-2-yl)propanoate | 120 mg, 32.2% | FC=1C=C(C=CC1)C(C(C(=O)OC)(C)C)C=1SC(=CC1)N1CCOCC1 | C20H24FNO3S
